Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
Angiogram 

 
History of Present Illness:
Mr. ___ is a ___ RHM with no ___ transferred from OSH
with a new intracranial hemorrhage uncovered on a head CT.  He 
reports drinking more than usual 3 days PTA and vomitting 
several times that night before
going to bed.  He woke the next morning with R orbital,
non-radiating pressure-like headache, persistent nausea 
resulting
in intermitting vomitting and intermittent vertiginous 
sensation.
He thought that it was "hang over" since he drank more than 
usual
and drank hard liquor which he does not usually drink (usually
drink beer - 6 pack at most) hence he tried ASA without relief. 
He continued to have nausea, right orbital headache and occ.
vertiginous sensation but no difficulty sleeping and no changes
in HA quality and intensity with position changes.  Although
there was gradual improvement in nausea/vomitting but since
headache persisted, he went to OSH this morning where he had the
NCHCT which showed IPH.

He reports slight chill last night but denies any history of
fever, night sweats of weight loss.  He denies any visual
disturbance other than occ. vertiginous sensation.  Also, no
reports of speech impairment, sensory deficit or weakness. 
Completely negative ROS otherwise.

He does not have any hx of head trauma/injury - no hx of HTN or
migraine.  No FH of aneurysms, stroke, or brain tumor.
 

 
Past Medical History:
PMH: 
hx of hypospadias repair as a ___ old
astigmatism with myopia
 

 
Social History:
___
Family History:
FH: Father had epilepsy in his ___ - died at a young age from
___.  No aneurysms, stroke or brain tumor in the family.  Mom 
had
HTN and DM.

 
Physical Exam:
Exam: 
T 99.4 BP 130/66 (119~130/56~66) HR 90 RR 15 O2Sat 98% 2L NC
Gen: Slightly drowsy but easily arousable, lying in the ED
stretcher, NAD; multiple tattoos in all extremities plus torso
HEENT: NC/AT, moist oral mucosa   
Neck: No tenderness to palpation, normal ROM, supple, no carotid
or vertebral bruit
CV: RRR, no murmurs/gallops/rubs 
Lung: Clear
Ext: no edema

Neurologic examination: 
Mental status: Slightly drowsy but easily arousable, cooperative
with exam, normal affect.  Oriented to person, place, and date. 
Attentive, says ___ backwards.  Speech is fluent with normal
comprehension and repetition; naming intact. No dysarthria.  
Registers ___, recalls ___ in 5 minutes.  No right left
confusion. No evidence of apraxia or neglect.
 
Cranial Nerves:  
II: Pupils equally round and reactive to light, 6 to 3 mm
bilaterally. Visual fields are full to confrontation. 
Fundoscopic
exam normal with sharp disc margins.
III, IV & VI: Extraocular movements intact bilaterally, no
nystagmus. 
V: Sensation intact to LT and PP.  
VII: Facial movement symmetric.  
VIII: Hearing intact to finger rub bilaterally.  
X: Palate elevation symmetrical.  
XI: Sternocleidomastoid and trapezius normal bilaterally. 
XII: Tongue midline, movements intact
 
Motor: 
Normal bulk and tone bilaterally. No observed myoclonus or
tremor. No asterixis or pronator drift.  Very fine and high
frequency tremor of R digits with full extension.
  Del Tri Bi  WF WE FE FF  IP  H  Q  DF PF TE TF
R  ___  ___  ___  ___  5  5
L  ___  ___  ___  ___  5  5  
 
Sensation: Intact to light touch, pinprick, vibration, cold and
proprioception throughout. 
 
Reflexes: 
+2 and symmetric throughout.  Toes downgoing bilaterally. 
 
Coordination: FTN, FTF, HTS and RAMs normal. 
 
Gait: Narrow based, steady.  Able to toe and heel walk and
Romberg negative.
 

 
Pertinent Results:
___ 02:03PM   GLUCOSE-112* UREA N-15 CREAT-1.0 SODIUM-137 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-26 ANION GAP-13
___ 02:03PM   WBC-8.4 RBC-4.69 HGB-13.4* HCT-38.7* MCV-83 
MCH-28.7 MCHC-34.7 RDW-13.7
___ 02:03PM   NEUTS-60.0 ___ MONOS-4.4 EOS-0.7 
BASOS-0.2

CT CNS w/ wo contrast on ___: 
On the source images of the CTA, there is evidence for prominent 
vessels 
within and along the margins of the hematoma. This could simply 
represent 
hyperemia within the hematoma but an AV malformation is not 
entirely excluded. 
Recommend correlation with conventional diagnostic angiography. 
No aneurysm is seen within limits of this examination 

MRI CNS w/ wo Contrast: Subacute hematoma, no definite 
underlying lesion identified.  

CT Thorax, abdomen and pelvis: normal. 

Carotid dupplex done (report not yet available). 

Angiogram: normal. 
 
Brief Hospital Course:
Mr. ___ has remained asymptomatic. His BP has remained 
within normal limits. No additional events or changes in the 
exam have been observed. 
 
Medications on Admission:
MVI
Fitness supplement
 
Discharge Medications:
1. Letter
To whom it may concern,
Mr. ___ was admitted to ___ from ___. He should 
take off from work until ___.

Sincerely,
___, MD

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right fronto-parietal hemorrhagic stroke possibly hypertensive 
nature. 

 
Discharge Condition:
Stable with a minor LEFT neglect. 

 
Discharge Instructions:
You have had a hemorrhage in the brain. You need to stop the 
supplements you take to improve your fitness as they contain 
stimulants that increase the risk for a new bleed.  
 
Followup Instructions:
___